2122-09-23 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2122-9-22**] 12:26 PM
 EEG - At [**2122-9-22**] 03:26 PM
 DIALYSIS CATHETER - START [**2122-9-22**] 07:00 PM
 SPUTUM CULTURE - At [**2122-9-23**] 12:00 AM
 BLOOD CULTURED - At [**2122-9-23**] 04:00 AM
   Head CT negative for acute change.  Neuro consult feels that angioedema
   likely due to ativan.  Recommended continuing Valproate.  EEG done at
   bedside-- not actively seizing at that time.  Started on heparin gtt.
   Had episode of Afib with RVR (in setting of ABG) to 160s at 0400.
   Given fentanyl 50, lopressor 5 mg IV and restarted on metoprolol 50
   TID.
   Mental status cleared significantly overnight, currently awake,
   following commands.
   Angioedema also significantly improved overnight.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Motrin (Oral) (Ibuprofen)
   Unknown;
   Nsaids
   Unknown;
   Aspirin
   Abdominal pain;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Anaphylaxis;  a
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Fentanyl - [**2122-9-23**] 04:15 AM
   Metoprolol - [**2122-9-23**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-9-23**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 81 (75 - 160) bpm
   BP: 113/54(68) {77/37(52) - 157/90(109)} mmHg
   RR: 12 (0 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,277 mL
                                                                    284 mL
   PO:
             TF:
   IVF:
                                                                  1,197 mL
                                                                    144 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,277 mL
                                                                    284 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 495 (386 - 495) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.25/41/198/21/-8
   Ve: 5.5 L/min
   PaO2 / FiO2: 495
   Physical Examination
   Gen: intubated, alert, follows commands
   HEENT: angioedema markedly improved
   CV: irreg irreg, tachy
   Pulm: cta ant
   Abd: surgical inscision c/d/i,
   Peripheral Vascular: (Right radial pulse: 2+ , (Left radial pulse: 2+ ,
   (Right DP pulse: 2+ , (Left DP pulse: 2+
   Neurologic: Responds to: voice, follows commands, moves all 4 with good
   strength
   Labs / Radiology
   345 K/uL
   8.9 g/dL
   71 mg/dL
   9.0 mg/dL
   21 mEq/L
   4.4 mEq/L
   26 mg/dL
   101 mEq/L
   139 mEq/L
   27.3 %
   8.3 K/uL
        [image002.jpg]
                             [**2122-9-22**]  12:10 PM
                             [**2122-9-22**]  03:23 PM
                             [**2122-9-23**]  03:54 AM
   WBC
   9.6
   8.3
   Hct
   33.0
   27.3
   Plt
   430
   345
   Cr
   14.5
   9.0
   TCO2
   19
   Glucose
   63
   71
   Other labs: PT / PTT / INR:16.9/103.2/1.5, CK / CKMB /
   Troponin-T:513//, ALT / AST:[**6-4**], Alk Phos / T Bili:48/0.3, Amylase /
   Lipase:63/, Differential-Neuts:60.7 %, Lymph:29.0 %, Mono:7.2 %,
   Eos:2.9 %, Lactic Acid:0.6 mmol/L, Albumin:4.3 g/dL, LDH:237 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   This is a 63 yo female with PMH of ESRD on HD s/p failed kidney
   transplant, recent ex-lap for benign pneumatosis, who presents with
   acute episode of AMS.
   .
   # ALTERED MENTAL STATUS: The episode of decreased responsiveness is
   likely due to postictal state/medication effect (ativan, propofol).
   Her mental status now is appropriate. Head CT and tox screens were
   negative.   EEG yesterday (prelim) negative for status.   Would hold
   off on using ativan for any recurrent seizure as it may have been
   responsible for her angioedema yesterday.
   -- neuro following
   -- depakote [**Hospital1 **], continue keppra
   -- f/u micro
   -- daily HD to treat uremia
   -- urgent EEG
   -- Seizure precautions
   .
   # Hypotension- likely medication effect from propofol. Resolved. Now
   back on metoprolol.
   -use fentanyl for bolus sedation PRN
   .
   #angioedema- may have been due to ativan administration yesterday.
   -hold ativan
   -hold lisinopril
   -will need outpatient allergy workup
   -monitor for now
   -no cuff leak this AM
may be [**2-7**] angio edema vs trauma of
   intubation
will give steroids x 3 doses then hope to extubate tomorrow.
   .
   # ESRD on HD: Missed 2 outpatient HD sessions. Dialyzed yesterday in
   MICU.
   -daily dialysis to treat uremia per renal
   -- continue nephrocaps and sensipar
   -- renally dose meds
   -- epo at HD
   .
   # Afib on coumadin
   -- INR subtherapeutic; unclear if pt is compliant with home meds.
   -- metoprolol for rate control
restarted overnight
   -- IV BB prn RVR
   --restart coumadin once extubated
   .
   # HTN: on metoprolol. Discontinue lisinopril due to association with
   angioedema.
   .
   # Hyperlipidemia:  -- Con't statin
   .
   # DM:
   -- RISS, FSG qid,
   .
   # FEN: NPO for now
   .
   # ACCESS: PIV , has HD cath for emergency.  has had previous central
   venous DVT-- obtaining central access may be difficult.
   .
   # PPx
   - sc heparin
   - replete lytes PRN
   - bowel meds
   .
   # CODE: FULL
   .
   # DISPO: ICU pending clinical improvement
   .
   # COMM: [**Name (NI) 135**] [**Name (NI) **] (brother/HCP)
   ICU [**Name (NI) 81**]
   Nutrition: npo
   Glycemic Control:
   Lines:
   22 Gauge - [**2122-9-22**] 01:13 PM
   20 Gauge - [**2122-9-22**] 01:38 PM
   Dialysis Catheter - [**2122-9-22**] 07:00 PM
   Prophylaxis:
   DVT:  hep sc
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:  brother hcp
   [**Name (NI) 36**] status: full
   Disposition: icu

2122-09-24 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient did well on SBP with RSBI in 30s.
   Patient did not get IR guided midline because IV nurse did not come up
   to try for line at bedside and IR would not take her until the IV team
   signs off.
   Heparin drip was discontinued while awaiting midline placement.
   Amlodipine resumed at reduced dose for hypertension.
   Valproate dose was increased per neurology.
   Dialyzed.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Motrin (Oral) (Ibuprofen)
   Unknown;
   Nsaids
   Unknown;
   Aspirin
   Abdominal pain;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Anaphylaxis;  a
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2122-9-23**] 07:11 PM
   Fentanyl - [**2122-9-23**] 11:00 PM
   Heparin Sodium (Prophylaxis) - [**2122-9-24**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-9-24**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.2
   HR: 79 (70 - 127) bpm
   BP: 139/60(80) {91/37(50) - 176/84(108)} mmHg
   RR: 14 (2 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    806 mL
                                                                    147 mL
   PO:
             TF:
   IVF:
                                                                    346 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,544 mL
                                                                    147 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 501 (501 - 501) mL
   Vt (Spontaneous): 400 (366 - 494) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 6.7 L/min
   Physical Examination
   Gen: intubated, sedated, easily aroused, follows commands
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   322 K/uL
   9.5 g/dL
   117 mg/dL
   7.6 mg/dL
   25 mEq/L
   4.6 mEq/L
   24 mg/dL
   98 mEq/L
   140 mEq/L
   30.0 %
   9.4 K/uL
        [image002.jpg]
                             [**2122-9-22**]  12:10 PM
                             [**2122-9-22**]  03:23 PM
                             [**2122-9-23**]  03:54 AM
                             [**2122-9-24**]  02:44 AM
   WBC
   9.6
   8.3
   9.4
   Hct
   33.0
   27.3
   30.0
   Plt
   [**Telephone/Fax (3) 1814**]
   Cr
   14.5
   9.0
   7.6
   TCO2
   19
   Glucose
   63
   71
   117
   Other labs: PT / PTT / INR:16.8/38.9/1.5, CK / CKMB / Troponin-T:513//,
   ALT / AST:[**6-4**], Alk Phos / T Bili:48/0.3, Amylase / Lipase:63/,
   Differential-Neuts:60.7 %, Lymph:29.0 %, Mono:7.2 %, Eos:2.9 %, Lactic
   Acid:0.6 mmol/L, Albumin:4.3 g/dL, LDH:237 IU/L, Ca++:9.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:8.4 mg/dL
   Assessment and Plan
   This is a 63 yo female with PMH of ESRD on HD s/p failed kidney
   transplant, recent ex-lap for benign pneumatosis, who presents with
   acute episode of AMS.
   .
   # ALTERED MENTAL STATUS: The episode of decreased responsiveness is
   likely due to postictal state coupled with medication effect (ativan,
   propofol).  Her mental status now is appropriate. Head CT and tox
   screens were negative.   EEG (prelim) negative for status.   Would hold
   off on using ativan for any recurrent seizure as it may have been
   responsible for her angioedema yesterday.
   -- neuro following
   -- depakote [**Hospital1 **] for now --check level daily
   -- continue keppra  for now
   -- f/u micro
   -- daily HD to treat uremia
   -- Seizure precautions
   .
   #angioedema- may have been due to ativan administration.   Given
   steroids x 24 hours, but still without cuff leak today.  Has h/o
   ?tracheal stenosis, so may not ever develop cuff leak.
   -hold ativan
   -hold lisinopril  as this is also associated with angioedema
   -will need outpatient allergy workup
   -monitor for now
   -anticipate extubation later today.
   .
   # ESRD on HD: Missed 2 outpatient HD sessions. Dialyzed yesterday in
   MICU.
   -daily dialysis to treat uremia per renal
   -- continue nephrocaps and sensipar
   -- renally dose meds
   -- epo at HD
   .
   # Afib on coumadin
   -- INR subtherapeutic; unclear if pt is compliant with home meds.
   -- metoprolol for rate control
restarted overnight
   -- IV BB prn RVR
   --restart coumadin once extubated
   .
   # HTN: on metoprolol and amlodipine. Discontinue lisinopril due to
   association with angioedema.
   .
   # Hyperlipidemia:  -- Con't statin
   .
   # DM:
   -- RISS, FSG qid,
   .
   # FEN: NPO for now
   .
   # ACCESS: PIV , has HD cath for emergency.  has had previous central
   venous DVT-- obtaining central access may be difficult.
   .
   # PPx
   - sc heparin
   - replete lytes PRN
   - bowel meds
   .
   # CODE: FULL
   .
   # DISPO: ICU pending clinical improvement
   .
   # COMM: [**Name (NI) 135**] [**Name (NI) **] (brother/HCP)
   ICU [**Name (NI) 81**]
   Nutrition:  NPO
   Glycemic Control:  RISS
   Lines:
   22 Gauge - [**2122-9-22**] 01:13 PM
   Dialysis Catheter - [**2122-9-22**] 07:00 PM
   Prophylaxis:
   DVT:  sc heparin
   Stress ulcer:  ppi
   VAP:  vap bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: icu

2122-09-25 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient with continued periods of apnea when allowed to initiate
   breaths on own. ABG on pressure support was 7.46/40/120/29
   Switched back to MMV after this.
   Neuro recommended increasing Keppra dosing, and tapering down Valproate
   dose over several days.
   Hemodialysis performed.
   PICC was not placed, but IR states that it will be placed today.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Motrin (Oral) (Ibuprofen)
   Unknown;
   Nsaids
   Unknown;
   Aspirin
   Abdominal pain;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Anaphylaxis;  a
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-9-25**] 02:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-9-25**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.2
   HR: 64 (64 - 78) bpm
   BP: 112/53(68) {112/50(68) - 163/132(136)} mmHg
   RR: 14 (6 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    570 mL
                                                                     76 mL
   PO:
             TF:
   IVF:
                                                                    240 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,430 mL
                                                                     76 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 850) mL
   Vt (Spontaneous): 1,024 (0 - 1,024) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 45
   PIP: 12 cmH2O
   SpO2: 100%
   ABG: 7.46/40/120/27/5
   Ve: 3.7 L/min
   PaO2 / FiO2: 300
   Physical Examination
   Gen:Intubated,  comfortable, no spontaneous breaths but awake and
   alert, follows commands, communacative
   CV: RRR
   Pulm: clear
   Abd: soft, n/tnd
   Ext: good distal pulses in b/l LE, no edema
   Labs / Radiology
   344 K/uL
   8.9 g/dL
   72 mg/dL
   6.3 mg/dL
   27 mEq/L
   3.3 mEq/L
   26 mg/dL
   99 mEq/L
   138 mEq/L
   27.4 %
   9.3 K/uL
        [image002.jpg]
                             [**2122-9-22**]  12:10 PM
                             [**2122-9-22**]  03:23 PM
                             [**2122-9-23**]  03:54 AM
                             [**2122-9-24**]  02:44 AM
                             [**2122-9-24**]  07:13 AM
                             [**2122-9-24**]  10:59 PM
                             [**2122-9-25**]  03:35 AM
   WBC
   9.6
   8.3
   9.4
   9.3
   Hct
   33.0
   27.3
   30.0
   27.4
   Plt
   [**Telephone/Fax (3) 1848**]44
   Cr
   14.5
   9.0
   7.6
   6.3
   TCO2
   19
   28
   29
   Glucose
   63
   71
   117
   72
   Other labs: PT / PTT / INR:24.2/38.9/2.4, CK / CKMB / Troponin-T:513//,
   ALT / AST:[**6-4**], Alk Phos / T Bili:48/0.3, Amylase / Lipase:63/,
   Differential-Neuts:60.7 %, Lymph:29.0 %, Mono:7.2 %, Eos:2.9 %, Lactic
   Acid:0.9 mmol/L, Albumin:4.3 g/dL, LDH:237 IU/L, Ca++:9.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:5.2 mg/dL
   MICRO: sputum culture: oral flora
   Assessment and Plan
   This is a 63 yo female with PMH of ESRD on HD s/p failed kidney
   transplant, recent ex-lap for benign pneumatosis, who presents with
   acute episode of AMS.
   #Respiratory failure: intubated for airway protection in setting of
   altered mental status.  Now, with persistant apnea of unclear
   etiology
even when awake.   Does not have cuff leak, but has ? history
   of tracheal stenosis after previous trach.
   -plan to try to extuabate today with anesthesia present in case of need
   for urgent reintubation
   # ALTERED MENTAL STATUS: The episode of decreased responsiveness is
   likely due to postictal state coupled with medication effect (ativan,
   propofol).  Her mental status now is appropriate. Head CT and tox
   screens were negative.   EEG (prelim) negative for status.
   -- neuro following
   -- depakote [**Hospital1 **], will taper dose per neuro
   -- continue keppra , currently at 500 [**Hospital1 7**] and extra dose with HD
   -- daily HD to treat uremia
   -- Seizure precautions
   .
   #angioedema- may have been due to ativan administration.   Given
   steroids x 24 hours, but still without cuff leak today.  Has h/o
   ?tracheal stenosis, so may not ever develop cuff leak.
   -hold ativan
   -hold lisinopril  as this is also associated with angioedema
   -will need outpatient allergy workup
   -monitor for now
   -anticipate extubation later today.
   .
   # ESRD on HD: Missed 2 outpatient HD sessions. Dialyzed yesterday in
   MICU.
   -daily dialysis to treat uremia per renal
   -- continue nephrocaps and sensipar
   -- renally dose meds
   -- epo at HD
   .
   # Afib on coumadin
   -- INR subtherapeutic; unclear if pt is compliant with home meds.
   -- metoprolol for rate control
restarted overnight
   -- IV BB prn RVR
   --restart coumadin today
   .
   # HTN: on metoprolol and amlodipine. Discontinue lisinopril due to
   association with angioedema.
   .
   # Hyperlipidemia:  -- Con't statin
   .
   # DM:
   -- RISS, FSG qid,
   .
   # FEN: NPO for now
   .
   # ACCESS: PIV , has HD cath for emergency.  has had previous central
   venous DVT. Trying for PICC today.
   .
   # PPx
   - sc heparin
   - replete lytes PRN
   - bowel meds
   .
   # CODE: FULL
   .
   # DISPO: ICU pending clinical improvement
   .
   # COMM: [**Name (NI) 135**] [**Name (NI) **] (brother/HCP)
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2122-9-22**] 01:13 PM
   Dialysis Catheter - [**2122-9-22**] 07:00 PM
   Prophylaxis:
   DVT:  sc heparin
   Stress ulcer:  ppi
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: icu

2122-09-26 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2122-9-25**] 01:17 PM
   Midline placed.
   Extubated in the presence of anesthesia-- did very well. Restarted on
   home coumadin regimen.
   Overnight had an episode of hypoglycemia to 60; resolved with [**Location (un) **]
   juice.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Motrin (Oral) (Ibuprofen)
   Unknown;
   Nsaids
   Unknown;
   Aspirin
   Abdominal pain;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Anaphylaxis;  a
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-9-26**] 12:00 AM
   Other medications:
   Lansoprazole
   Coumadin 2 mg daily
   Valproic acid 250 [**Hospital1 7**]
   Keppra 500 [**Hospital1 7**] +HD
   Amlodipine 5 mg daily
   HSQ
   Metoprolol 50 mg TID
   Atorvastatin 20 daily
   Insulin Sliding Scale
   Sertraline 100 daily
   Cinacalcet 90 mg daily
   Nephrocaps daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-9-26**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.2
   HR: 69 (63 - 77) bpm
   BP: 134/64(81) {116/50(67) - 152/97(102)} mmHg
   RR: 13 (13 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
                  Total In:
                                                                    228 mL
                  PO:
                  TF:
   IVF:
                                                                    108 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    228 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 331 (265 - 331) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   Plateau: 13 cmH2O
   SpO2: 98%
   ABG: ///26/
   Ve: 4.5 L/min
   Physical Examination
   Gen:  well appearing,NAD
   HEENT:
   Labs / Radiology
   390 K/uL
   9.2 g/dL
   56 mg/dL
   8.4 mg/dL
   26 mEq/L
   3.8 mEq/L
   36 mg/dL
   98 mEq/L
   139 mEq/L
   28.4 %
   6.4 K/uL
        [image002.jpg]
                             [**2122-9-22**]  12:10 PM
                             [**2122-9-22**]  03:23 PM
                             [**2122-9-23**]  03:54 AM
                             [**2122-9-24**]  02:44 AM
                             [**2122-9-24**]  07:13 AM
                             [**2122-9-24**]  10:59 PM
                             [**2122-9-25**]  03:35 AM
                             [**2122-9-26**]  04:12 AM
   WBC
   9.6
   8.3
   9.4
   9.3
   6.4
   Hct
   33.0
   27.3
   30.0
   27.4
   28.4
   Plt
   [**Telephone/Fax (3) 1848**]44
   390
   Cr
   14.5
   9.0
   7.6
   6.3
   8.4
   TCO2
   19
   28
   29
   Glucose
   63
   71
   117
   72
   56
   Other labs: PT / PTT / INR:23.2/35.2/2.2, CK / CKMB / Troponin-T:513//,
   ALT / AST:[**6-4**], Alk Phos / T Bili:48/0.3, Amylase / Lipase:63/,
   Differential-Neuts:60.7 %, Lymph:29.0 %, Mono:7.2 %, Eos:2.9 %, Lactic
   Acid:0.9 mmol/L, Albumin:4.3 g/dL, LDH:237 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
   This is a 63 year old female with PMH of ESRD on HD s/p failed kidney
   transplant, recent ex-lap for benign pneumatosis, admitted with AMS
   likely secondary to opioids and missed dialysis, transferred to MICU
   after intubation for airway protection following a seizure +/-
   angioedema secondary to ?ativan.
   1.  Airway.  Patient initially intubated for airway protection in
   post-ictal state +/- angioedema secondary to ?ativan.  Was apneic and
   without cuff leak initially.  Extubated yesterday and doing well now on
   room air.
   2.  AMS.  Admitted for altered mental status, likely secondary to
   missing dialysis and opioids at home.  Her mental status now is
   appropriate. Head CT and tox screens were negative.   EEG (prelim)
   negative for status.
   -- neuro following
   -- d/c depakote
   -- continue keppra , currently at 500 [**Hospital1 7**] and extra dose with HD
   -- daily HD to treat uremia
   -- Seizure precautions
   .
   3.  Angioedema.  This  may have been due to ativan administration.
   Given steroids x 24 hours, but still without cuff leak yesterday.  Has
   h/o ?tracheal stenosis, so may not ever develop cuff leak.
   -hold ativan
   -hold lisinopril  as this is also associated with angioedema
   -will need outpatient allergy workup
   -monitor for now
   -anticipate extubation later today.
   .
   4. ESRD on HD: Dialyzed today.
   -daily dialysis to treat uremia per renal
   -- continue nephrocaps and sensipar
   -- renally dose meds
   -- epo at HD
   .
   5.  Afib on coumadin.  Patient admitted with subtherapeutic INR so
   unclear if taking meds at home.
   -- INR subtherapeutic; unclear if pt is compliant with home meds.
   -- metoprolol for rate control
restarted overnight
   -- IV BB prn RVR
   --restart coumadin today
   .
   # HTN: on metoprolol and amlodipine. Discontinue lisinopril due to
   association with angioedema.
   .
   # Hyperlipidemia:  -- Con't statin
   .
   # DM:
   -- RISS, FSG qid,
   .
   # FEN: NPO for now
   .
   # ACCESS: PIV , has HD cath for emergency.  has had previous central
   venous DVT. Trying for PICC today.
   .
   # PPx
   - sc heparin
   - replete lytes PRN
   - bowel meds
   .
   # CODE: FULL
   .
   # DISPO: ICU pending clinical improvement
   .
   # COMM: [**Name (NI) 135**] [**Name (NI) **] (brother/HCP)
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2122-9-22**] 01:13 PM
   Dialysis Catheter - [**2122-9-22**] 07:00 PM
   Midline - [**2122-9-25**] 01:17 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer:  PPI
   VAP:  not needed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: